US06476026B1
A solution of 4-(2-piperidin-4-ylaminothiazol-4-yl)benzoic acid hydrobromide (600 mg, 1.56 mmol) and sodium hydroxide (125 mg, 3.12 mmol) in THF/water (30 mL) was treated with bis(1,1-dimethylethyl) dicarbonate (375 mg, 1.71 mmol). The mixture was stirred for approximately 12 hours at room temperature and then concentrated on a rotavap. The residue was diluted with water and the mixture was acidified to pH 3 with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine and dried over Na2(SO)4 to provide 4-[2-(1-tert-butoxycarbonylpiperidin-4-ylamino)thiazol-4-yl]benzoic acid (680 mg, 100% yield). HNMR (dmso-d6): 7.93 (4H, s), 7.73 (1H, d), 7.26 (1H, s), 3.84 (2H, m), 3.76 (1H, m), 2.97 (2H, m), 1.97 (2H, m), 1.46 (9H, s), 1.28 (2H, m).

reactant | 4-(2-piperidin-4-ylaminothiazol-4-yl)benzoic acid hydrobromide | 1.56 mmol, 600 mg | Br.N1CCC(CC1)NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1
reactant | sodium hydroxide | 3.12 mmol, 125 mg | [OH-].[Na+]
reactant | bis(1,1-dimethylethyl) dicarbonate | 1.71 mmol, 375 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 30 mL | C1CCOC1.O
product | 4-[2-(1-tert-butoxycarbonylpiperidin-4-ylamino)thiazol-4-yl]benzoic acid | 680 mg, 100% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C20H25N3O4S
